US08003647B2
4-(4-Benzyloxy-3-cyanoindol-1-yl)benzoic acid
To a solution of 4-(4-benzyloxy-3-cyanoindol-1-yl)benzoic acid ethyl ester (0.16 g) in ethanol (2 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.4 mL), and this mixture was stirred at 50° C. overnight. Ethanol was removed under reduced pressure, and to this reaction mixture was added 2 mol/L hydrochloric acid (3 mL). The precipitated solid was collected by filtration, and this solid was washed with water and n-hexane to give the title compound (0.11 g).

reactant | 4-(4-benzyloxy-3-cyanoindol-1-yl)benzoic acid ethyl ester | 0.16 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=C(C=CC=C12)OCC1=CC=CC=C1)C#N)=O | C25H20N2O3
reactant | sodium hydroxide | 2 mol/L, 0.4 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(4-Benzyloxy-3-cyanoindol-1-yl)benzoic acid | 0.11 g | C(C1=CC=CC=C1)OC1=C2C(=CN(C2=CC=C1)C1=CC=C(C(=O)O)C=C1)C#N | C23H16N2O3
